US08071776B2
A. (3-Amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid
To a solution of (3-amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid methyl ester (0.940 g, 2.54 mmol) in THF (20 ml) is added 95% potassium trimethylsilanolate (1.63 g, 12.71 mmol). The resulting mixture is stirred at room temperature for 2 hours and then quenched by the addition of water (50 ml). The mixture is acidified to pH2 by the addition of 1 N HCl, and then extracted with EtOAc (100 ml). The organic layer is washed with brine (40 ml), then dried (anhydrous magnesium sulfate), filtered, and concentrated to give the title compound as a yellow solid (0.693 g, 77%). Mass (m/z): 355.9 (M++1), 354.0 (M+−1).

reactant | (3-amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid methyl ester | 2.54 mmol, 0.940 g | COC(COC1=C(C(=C2C(=N1)SC(=C2N)C(NC2CC2)=O)C)Cl)=O | C15H16ClN3O4S
reactant | potassium trimethylsilanolate | 12.71 mmol, 1.63 g | C[Si]([O-])(C)C.[K+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (3-Amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid | 0.693 g, 77% | NC1=C(SC2=NC(=C(C(=C21)C)Cl)OCC(=O)O)C(NC2CC2)=O | C14H14ClN3O4S
